US06653047B2
Synthesis of poly(N-methylmaleimide/hexafluorobutyl-5-norbornene-2-carboxylate/2,6-difluoro-1-methylbenzyl-5-norbornene-2-carboxylate)
To 20 mL of tetrahydrofuran was added 50 mmole of N-methylmaleimide, 10 mmole of hexafluorobutyl-5-norbornene-2-carboxylate, 40 mmole of 2,6-difluoro-1-methylbenzylacrylate and 0.3 g of AIBN, and the resulting solution was reacted at about 65° C. for about 12 hours.

reactant | N-methylmaleimide | 50 mmole | CN1C(C=CC1=O)=O | C5H5NO2
reactant | hexafluorobutyl-5-norbornene-2-carboxylate | 10 mmole | FC(C(F)(F)OC(=O)C1C2C=CC(C1)C2)CC(F)(F)F | C12H12F6O2
reactant | 2,6-difluoro-1-methylbenzylacrylate | 40 mmole | FC1C(CC(C(=O)[O-])=C)(C(=CC=C1)F)C
reactant | AIBN | 0.3 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-methylmaleimide hexafluorobutyl-5-norbornene-2-carboxylate 2,6-difluoro-1-methylbenzyl-5-norbornene-2-carboxylate | CN1C(C=CC1=O)=O.FC(C(F)(F)OC(=O)C1C2C=CC(C1)C2)CC(F)(F)F.FC1C(CC23C(CC(C=C2)C3)C(=O)[O-])(C(=CC=C1)F)C | InChI=1S/C16H18F2O2.C12H12F6O2.C5H5NO2/c1-15(12(17)3-2-4-13(15)18)9-16-6-5-10(8-16)7-11(16)14(19)20;13-9(5-11(14,15)16)12(17,18)20-10(19)8-4-6-1-2-7(8)3-6;1-6-4(7)2-3-5(6)8/h2-6,10-12H,7-9H2,1H3,(H,19,20);1-2,6-9H,3-5H2;2-3H,1H3/p-1
